US07223788B2
4-(4-Chlorophenyl)piperidine-1-carboxylic acid (4-{(R)-3-[methyl-(1-methyl-piperidin-3-ylcarbonyl)amino]pyrrolidin-1-yl}phenyl)amide
(R)-4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(3-methylamino-pyrrolidin-1-yl)phenyl]amide was reacted with 1-methylpiperidine-3-carboxylic acid by method E. This resulted in the product with the molecular weight of 538.14 (C30H40ClN5O2); MS (ESI): 538 (M+H+).

reactant | (R)-4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(3-methylamino-pyrrolidin-1-yl)phenyl]amide | CN[C@H]1CN(CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl | C23H29ClN4O
reactant | 1-methylpiperidine-3-carboxylic acid | CN1CC(CCC1)C(=O)O | C7H13NO2
product | 4-(4-Chlorophenyl)piperidine-1-carboxylic acid (4-{(R)-3-[methyl-(1-methyl-piperidin-3-ylcarbonyl)amino]pyrrolidin-1-yl}phenyl)amide | CN([C@H]1CN(CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(=O)C1CN(CCC1)C | C30H40ClN5O2
